US09447106B2
Step 1: 7-(2-Aminophenyl)-2-(4-(cyclopropylmethoxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile
To a solution of 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (331 mg, 1.0 mmol) in acetone (15 mL) was added (bromomethyl)cyclopropane (135 mg, 1.0 mmol) and K2CO3 (276 mg, 2.0 mmol). After stirring at 56° C. for 16 hr, the mixture was filtered. The cake was washed with acetone (20 mL×2). The filtrate was concentrated to afford 300 mg of desired product (78%) as a yellow solid. MS (ESI) m/e [M+1]+ 386.0.

reactant | 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1.0 mmol, 331 mg | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)O | C19H17N5O
reactant | (bromomethyl)cyclopropane | 1.0 mmol, 135 mg | BrCC1CC1 | C4H7Br
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 7-(2-Aminophenyl)-2-(4-(cyclopropylmethoxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 300 mg, 78% | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)OCC2CC2 | C23H23N5O
